US05849911
1-[4(Thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxycarbonyl-(L)-valyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane
Analogously to Example 7, 140 mg (0.80 mmol) of N-methoxycarbonyl-(L)-valine, 288 mg (1.5 mmol) of EDC and 135 mg (1.0 mmol) of HOBT in 2 ml of DMF and 418 μl of TEA are reacted with 0.5 mmol of 1-[4-(thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane in 5 ml of DMF to form the title compound: m.p: 202°-204° C.; HPLC20-100 : tRet =14.0; FAB MS (M+H)+ =697.

reactant | N-methoxycarbonyl-(L)-valine | 0.80 mmol, 140 mg | COC(=O)N[C@@H](C(C)C)C(=O)O | C7H13NO4
reactant | EDC | 1.5 mmol, 288 mg
reactant | HOBT | 1.0 mmol, 135 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-[4-(thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane | 0.5 mmol | S1C=NC=C1C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O)O)N | C28H37N5O4S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[4(Thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxycarbonyl-(L)-valyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane | S1C=NC=C1C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O)O)NC([C@@H](NC(=O)OC)C(C)C)=O | C35H48N6O7S
